US08048909B2
{1-[(3-Chlorophenyl)sulfonyl]-2-methyl-5-phenyl-1H-pyrrol-3-yl}methanol
Using ethyl 1-[(3-chlorophenyl)sulfonyl]-2-methyl-5-phenyl-1H-pyrrole-3-carboxylate (0.80 g) and a 1.5 mol/L solution (4.0 mL) of diisobutylaluminum hydride in toluene, a procedure as in Reference Example 5 was performed to give the title compound as a brown oil (yield 345 mg, 48%).

reactant | ethyl 1-[(3-chlorophenyl)sulfonyl]-2-methyl-5-phenyl-1H-pyrrole-3-carboxylate | 0.80 g | ClC=1C=C(C=CC1)S(=O)(=O)N1C(=C(C=C1C1=CC=CC=C1)C(=O)OCC)C | C20H18ClNO4S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | {1-[(3-Chlorophenyl)sulfonyl]-2-methyl-5-phenyl-1H-pyrrol-3-yl}methanol | yield 345 mg, 48% | ClC=1C=C(C=CC1)S(=O)(=O)N1C(=C(C=C1C1=CC=CC=C1)CO)C | C18H16ClNO3S
